US06566356B2
0.031 cm3 of diisopropylcarbodiimide, a solution of 30 mg of 1-[bis(4-chlorophenyl)methyl]azetidin-3-ylamine in 0.5 cm3 of anhydrous dichloromethane, and 3 cm3 of anhydrous dichloromethane are added to a solution of 85.7 mg of toluenesulfonylacetic acid, 27 mg of hydroxybenzotriazole in solution in 0.5 cm3 of dimethylformamide under an inert argon atmosphere, at a temperature in the region of 23° C. After 17 hours at a temperature in the region of 23° C., the reaction mixture is loaded onto a 3-cm3 SPE cartridge containing 1 g of SCX phase preconditioned with methanol. After washing with twice 5 cm3 of methanol and then 4 cm3 of 0.1 N ammoniacal methanol, the expected product is eluted with 4 cm3 of 1 N ammoniacal methanol. The fraction containing the expected product is evaporated under an air stream at a temperature in the region of 45° C. and then dried under reduced pressure (1 mbar) at a temperature in the region of 40° C. N-{1-[bis(4-chlorophenyl)methyl]-azetidin-3-yl}-2-(toluene-4-sulfonyl)acetamide is obtained in the form of a yellow lacquer [1H NMR spectrum (500 MHz, CDCl3, δ in ppm) 2.85 (t, J=7 Hz: 2H); 3.07 (s: 3H); 3.48 (t, J=7 Hz: 2H); 4.24 (s: 1H); 4.49 (mt: 1H); 7.19 (broad d, J=6 Hz: 1H); from 7.20 to 7.40 (mt: 8H); 8.40 (s: 1H)].

reactant | diisopropylcarbodiimide | 0.031 cm3 | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-ylamine | 30 mg | ClC1=CC=C(C=C1)C(N1CC(C1)N)C1=CC=C(C=C1)Cl | C16H16Cl2N2
reactant | toluenesulfonylacetic acid | 85.7 mg | C=1(C(=CC=CC1)S(=O)(=O)CC(=O)O)C | C9H10O4S
reactant | hydroxybenzotriazole | 27 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dichloromethane | 0.5 cm3 | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 cm3 | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 cm3 | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-{1-[bis(4-chlorophenyl)methyl]-azetidin-3-yl}-2-(toluene-4-sulfonyl)acetamide | ClC1=CC=C(C=C1)C(N1CC(C1)NC(CS(=O)(=O)C1=CC=C(C=C1)C)=O)C1=CC=C(C=C1)Cl | C25H24Cl2N2O3S
